US06833456B2
A solution of THF (5 mL), MeOH (1 mL) and H2O (1 mL) was used to dissolve LiOH.H2O (0.042 g, 1.0 mmol) and then added 7-(2-Methyl-1-methylcarbamoyl-1H-indol-5-yloxy)-thieno[3,2-b]pyridine-2-carboxylic acid methyl ester (0.35 g, 0.89 mmol) added. The solution was stirred at 25° C. for 2 h, quenched with several drops of 1N HCl then concentrated. The precipitate was rinsed with H2O (2×5 mL) and Et2O (2×5 mL), dried under high vacuum for 2 h and used as is to afford 7-(2-Methyl-1-methylcarbamoyl-1H-indol-5-yloxy)-thieno[3,2-b]pyridine-2-carboxylic acid (0.25 g, 73%) as yellow solid. HPLC: Rt 3.43 min. (95% area). LCMS (ACPI) M+H+ m/z: 382.1.

reactant | THF | 5 mL | C1CCOC1 | C4H8O
reactant | MeOH | 1 mL | CO | CH4O
reactant | LiOH.H2O | 1.0 mmol, 0.042 g | O[Li].O
reactant | 7-(2-Methyl-1-methylcarbamoyl-1H-indol-5-yloxy)-thieno[3,2-b]pyridine-2-carboxylic acid methyl ester | 0.89 mmol, 0.35 g | COC(=O)C1=CC2=NC=CC(=C2S1)OC=1C=C2C=C(N(C2=CC1)C(NC)=O)C | C20H17N3O4S
solvent | H2O | 1 mL | O | H2O
product | 7-(2-Methyl-1-methylcarbamoyl-1H-indol-5-yloxy)-thieno[3,2-b]pyridine-2-carboxylic acid | 0.25 g, 73% | CC=1N(C2=CC=C(C=C2C1)OC1=C2C(=NC=C1)C=C(S2)C(=O)O)C(NC)=O | C19H15N3O4S
